US08217043B2
d) [(1-Butyl-4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carbonyl)-amino]-acetic acid
Prepared according to the glycinolysis condition used in Example 1 step d) from 1-butyl-4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid ethyl ester (1.0 eq.) and sodium glycinate (15 eq.). ESI (m/z): 308 (M+H)+.

reactant | 1-butyl-4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid ethyl ester | 1.0 eq. | C(C)OC(=O)C1=C(C=2N(N(C1=O)CCCC)C=CC2)O | C14H18N2O4
reactant | sodium glycinate | 15 eq. | NCC(=O)[O-].[Na+]
product | [(1-Butyl-4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carbonyl)-amino]-acetic acid | C(CCC)N1N2C(C(=C(C1=O)C(=O)NCC(=O)O)O)=CC=C2 | C14H17N3O5
